US06864265B2
3-(1-tert-butoxycarbonyl-Benzimidazol-2-yl)propionaldehyde
To a solution of 3-(1-tert-butoxycarbonyl-Benzimidazol-2-yl)propan-1-ol (186 mg, 0.67 mmol) in CH2Cl2 (4 mL) was added Dess-Martin reagent (314 mg, 0.74 mmol) and the resulting mixture was allowed to stir at room temperature under N2 for 1 hour. The mixture was further diluted with 300-mL ethyl acetate, and washed with 1N NaOH, brine and dried over Na2SO4. Evaporation of the solvent and flash chromatograph of residue over silica gel, using 20% ethyl acetate in CH2Cl2, gave the title compound (141 mg, 76%) as pure white solid. 1H NMR (CDCl3) □1.72 (s, 9H), 3.13 (t, 2H, J=6.8 Hz), 3.52 (t, 2H, J=6.8 Hz), 7.28-7.34 (m, 2H), 7.66-7.67 (m, 1H), 7.87-7.91 (m, 1H), 9.97 (s, 1H).

reactant | 3-(1-tert-butoxycarbonyl-Benzimidazol-2-yl)propan-1-ol | 0.67 mmol, 186 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CCCO | C15H20N2O3
reactant | Dess-Martin reagent | 0.74 mmol, 314 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 300-mL | C(C)(=O)OCC | C4H8O2
product | 3-(1-tert-butoxycarbonyl-Benzimidazol-2-yl)propionaldehyde | 141 mg, 76% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CCC=O | C15H18N2O3
